US08293768B2
Synthesis of ethyl 2-(1-(2-(4-fluorophenoxy)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 19, making variation as required to replace 4-(trifluoromethyl)benzyl bromide with 1-(2-bromoethoxy)-4-fluorobenzene to react with ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate, the title compound was obtained as a white solid in 48% yield: 1H NMR (300 MHz, CDCl3) δ 8.26 (s, 1H), 6.93-6.84 (m, 2H), 6.81-6.75 (m, 2H), 4.32-4.15 (m, 6H), 2.62 (s, 3H), 1.31 (t, J=7.1 Hz, 3H); MS (ES+) m/z 393.3 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 1-(2-bromoethoxy)-4-fluorobenzene | BrCCOC1=CC=C(C=C1)F | C8H8BrFO
reactant | ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NNC1=O | C9H10N4O3S
product | ethyl 2-(1-(2-(4-fluorophenoxy)ethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate | 48% yield | FC1=CC=C(OCCN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)OCC)C=C1 | C17H17FN4O4S
